US08039479B2
To a solution of 2-methyl-4-nitro-5-isopropoxy-phenylboronic acid pinacol ester (2.04 g, 6.4 mmol) and 4-Trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (3.2 g, 9.6 mmol) in 110 mL of DME/H2O (10:1 V/V) is added Pd(PPh3)4 (365 mg, 0.32 mmol) and Cs2CO3 (4.2 g, 12.8 mmol). The reaction mixture is heated under N2 at 80° C. overnight. After cooling to room temperature, the reaction is filtered through Celite and the filtrate is diluted with 100 mL of EtOAc, sequentially washed with H2O, brine, and finally concentrated in vacuo. The crude product is purified by silica gel flash chromatography (5%-15% EtOAc in Hexanes as eluent) to afford 4-(5-Isopropoxy-2-methyl-4-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a yellow oil. 1H NMR (CD3OD, 400 Mz): 7.59 (s, 1H), 6.96 (s, 1H), 5.67 (broad s, 1H), 4.73 (m, 1H), 4.06 (m, 2H), 3.65 (m, 2H), 2.37 (m, 2H), 2.25 (s, 3H), 1.50 (s, 9H), 1.33 (d, J=6.0 Hz, 6H).

reactant | 2-methyl-4-nitro-5-isopropoxy-phenylboronic acid pinacol ester | 6.4 mmol, 2.04 g | CC1=C(C=C(C(=C1)[N+](=O)[O-])OC(C)C)B1OC(C)(C)C(C)(C)O1 | C16H24BNO5
reactant | 4-Trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 9.6 mmol, 3.2 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | Cs2CO3 | 12.8 mmol, 4.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME H2O | 110 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 0.32 mmol, 365 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(5-Isopropoxy-2-methyl-4-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(C=C(C(=C1)OC(C)C)[N+](=O)[O-])C | C20H28N2O5
